US07101898B2
(E)-1-((S)-2-((Piperidin-1-yl)methyl)pyrrolidin-1-yl)-3-(4-(trifluoromethyl)phenyl)but-2-en-1-one
110 mg of the title compound were synthesized as described for (E)-3-(4-bromophenyl)-1-((S)-2-((pyrrolidin-1-yl)methyl)pyrrolidin-1-yl)propenone, using (E)-3-(4-(trifluoromethyl)phenyl)but-2-enoic acid instead of (E)-4-bromocinnamic acid and 1-(((S)-pyrrolidin-2-yl)methyl)piperidine instead of (S)-2-((pyrrolidin-1-yl)methyl)pyrrolidine.

reactant | (E)-3-(4-(trifluoromethyl)phenyl)but-2-enoic acid | FC(C1=CC=C(C=C1)/C(=C/C(=O)O)/C)(F)F | C11H9F3O2
reactant | 1-(((S)-pyrrolidin-2-yl)methyl)piperidine | N1[C@@H](CCC1)CN1CCCCC1 | C10H20N2
product | (E)-1-((S)-2-((Piperidin-1-yl)methyl)pyrrolidin-1-yl)-3-(4-(trifluoromethyl)phenyl)but-2-en-1-one | 110 mg | N1(CCCCC1)C[C@H]1N(CCC1)C(\C=C(/C)\C1=CC=C(C=C1)C(F)(F)F)=O | C21H27F3N2O
